US05846988
A mixture of cysteine (Aldrich, 2.0 g, 17.1 mmol) and 3,5-di-tert-butyl-4-hydroxybenzaldehyde (Aldrich, 4.0 g, 17.1 mmol) in methanol (100 mL) was warmed at reflux for 2.25 h. The reaction mixture was cooled to ambient temperature and the solid that formed upon cooling was collected by filtration. The solid was washed with methanol and recrystallized from a mixture of ethanol/ethyl acetate. Recrystallization from ethanol gave 1.3 g (22% yield) of (4R)-2-(3,5-di-tert-butyl-4-hydroxyphenyl)-4-thiazolidine carboxylic acid as an off white solid, m.p. 163°-165° C.

reactant | cysteine | 17.1 mmol, 2.0 g | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | 17.1 mmol, 4.0 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
solvent | methanol | 100 mL | CO | CH4O
product | (4R)-2-(3,5-di-tert-butyl-4-hydroxyphenyl)-4-thiazolidine carboxylic acid | 1.3 g, 22% yield | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1SC[C@H](N1)C(=O)O | C18H27NO3S
